US09238658B2
2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-4-carboxamide (Compound ID #26)
In a flask was placed ethyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-4-carboxylate (83.6 mg, 0.2 mmol) and EtOH (3 mL) was added. Then, NH3(aq) (24 mL) was added and the resulting mixture was heated to 38-40° C. for 24 h. The reaction did not go completion and another portion of NH3(aq) (24 mL) was added. The resulting mixture was stirred continuously at 38-40° C. for another 24 h. The resulting mixture was then concentrated to remove most of the solvent. The resulting white solid was filtered and washed with H2O (3 mL), 20% CH2Cl2/hexane (5 mL×2), then dried to yield as a white solid.

reactant | ethyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-4-carboxylate | 0.2 mmol, 83.6 mg | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC=C(N1)C(=O)OCC | C20H23FN4O3S
reactant | NH3 | 24 mL | N | H3N
reactant | NH3 | 24 mL | N | H3N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-4-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC=C(N1)C(=O)N | C18H20FN5O2S
